US04200641
A mixture of 4.37 parts of N-(2-aminophenyl)-4-(diphenylmethyl)-1-piperazinepropanamine hydrochloride, 38 parts of carbon disulfide, 2 parts of sodium carbonate and 40 parts of ethanol is stirred and refluxed for 20 hours. The reaction mixture is evaporated and water is added to the residue. The precipitated product is filtered off, washed with water and dissolved in trichloromethane. The solution is dried, filtered and evaporated. The residue is crystallized from 4-methyl-2-pentanone, yielding 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1H-benzimidazole-2-thiol; mp. 181.8° C.

reactant | N-(2-aminophenyl)-4-(diphenylmethyl)-1-piperazinepropanamine hydrochloride | Cl.NC1=C(C=CC=C1)NCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1
reactant | carbon disulfide | C(=S)=S | CS2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1H-benzimidazole-2-thiol | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(=NC2=C1C=CC=C2)S)C2=CC=CC=C2 | C27H30N4S
